US04288436
Ethyl acetate (15 ml.) and 2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetic acid (syn isomer) (2.0 g.) were added to the solution at -10° C. to give a solution. On the other hand, a suspension of 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2.83 g.) in water (40 ml.) was changed to a solution by adding sodium bicarbonate (1.45 g.), and then acetone (40 ml.) was added thereto. After the solution was adjusted to pH 7.3, the ethyl acetate solution obtained above was added dropwise thereto over 10 minutes with stirring at -5° to -7° C., during which the pH of the mixture was kept at 6.8 to 7.3 with an aqueous solution of sodium bicarbonate. The mixture was stirred for 1.5 hours at the same temperature. The resultant solution was adjusted to pH 7.8 and washed with ethyl acetate (40 ml.). The solution was adjusted to pH 6 and washed with ethyl acetate (40 ml.). And the solution was adjusted to pH 2 and extracted with ethyl acetate (100 ml.). The extract was washed with a saturated aqueous solution of sodium chloride (60 ml.) and dried over magnesium sulfate. The extract was concentrated in vacuo, and the residue was washed with diethyl ether and collected by filtration to give pale yellow crystals of 7-[2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (3.4 g.).

reactant | 2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetic acid | 2.0 g | CON=C(C(=O)O)C=1SCCSC1 | C7H9NO3S2
reactant | 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.83 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O | C11H12N6O5S2
reactant | sodium bicarbonate | 1.45 g | C([O-])(O)=O.[Na+]
solvent | water | 40 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | Ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 7-[2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.4 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)C=1SCCSC1 | C18H19N7O7S4
